US07268231B2
To a suspension of 2-[(thiophen-2-ylmethyl)-amino]-thiazol-4-one (34.0 mg, 0.16 mmol), and 1,5-naphthyridine-6-carboxaldehyde (31.6 mg, 0.2 mmol) in toluene (1 mL) in a microwave tube were added benzoic acid (2.0 mg, 0.02 mmol) and piperidine (1.7 uM, 0.02 mmol). The reaction mixture was heated to 120° C. with microwave for 5 min, then cooled to r.t. and diluted with toluene. The solid was collected by filtration and washed with toluene, MeOH and ether to give 5-[1,5]naphthyridin-2-ylmethylene-2-[(thiophen-2-ylmethyl)-amino]-thiazol-4-one as a light brown solid (19.7 mg, 34.9%). HR-ES (+) m/e calcd. for C17H12N4OS2: (M+H)+ 353.0526. Found: 353.0526.

reactant | 2-[(thiophen-2-ylmethyl)-amino]-thiazol-4-one | 0.16 mmol, 34.0 mg | S1C(=CC=C1)CNC=1SCC(N1)=O | C8H8N2OS2
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.2 mmol, 31.6 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | benzoic acid | 0.02 mmol, 2.0 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 0.02 mmol, 1.7 uM | N1CCCCC1 | C5H11N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[1,5]naphthyridin-2-ylmethylene-2-[(thiophen-2-ylmethyl)-amino]-thiazol-4-one | 19.7 mg, 34.9% | N1=C(C=CC2=NC=CC=C12)C=C1C(N=C(S1)NCC=1SC=CC1)=O | C17H12N4OS2
